US07342118B2
2-(2-Hydroxy-3,3-dimethyl-butyrylamino)-pentanoic acid [1-(1,1-dimethyl-2-pyrrolidin-1-yl-ethyl)-1H-imidazol-4-yl]-amide
2-Amino-pentanoic acid [1-(1,1-dimethyl-2-pyrrolidin-1-yl-ethyl)-1H-imidazol-4-yl]-amide was coupled with (S)-2-hydroxy-3,3-dimethyl-butyric acid to afford the title compound: C13 NMR (100 MHz, CDCl3) 12.7, 18.9, 22.8, 25.2, 25.4, 33.9, 34.8, 53.0, 56.8, 60.5, 63.3, 79.0, 107.5, 131.2, 171.8, 174.8; MS m/z 422.4 (M+1).

reactant | 2-Amino-pentanoic acid [1-(1,1-dimethyl-2-pyrrolidin-1-yl-ethyl)-1H-imidazol-4-yl]-amide | CC(CN1CCCC1)(C)N1C=NC(=C1)NC(C(CCC)N)=O | C16H29N5O
reactant | (S)-2-hydroxy-3,3-dimethyl-butyric acid | O[C@H](C(=O)O)C(C)(C)C | C6H12O3
product | 2-(2-Hydroxy-3,3-dimethyl-butyrylamino)-pentanoic acid [1-(1,1-dimethyl-2-pyrrolidin-1-yl-ethyl)-1H-imidazol-4-yl]-amide | CC(CN1CCCC1)(C)N1C=NC(=C1)NC(C(CCC)NC(C(C(C)(C)C)O)=O)=O | C22H39N5O3
